US05688807
To a stirred, cooled (-5° C.) solution of 2,4-dibromoaniline (50.0 g, 0.2 mol.) in concentrated HCl solution (110 mL) was added sodium nitrite (13.8 g, 0.2 mol.) in water (110 mL) dropwise at such a rate as to maintain temperature below 5° C. After complete addition, the mixture was further stirred at 5° C. for 30 minutes. A solution of tin chloride monohydrate (135.4 g, 0.6 mol.) in concentrated HCl (total volume 170 mL) was added dropwise again maintaining temperature below 5° C. After complete addition and 30 minutes of further stirring, the mixture was placed in the freezer overnight. The light brown solid which precipitated was isolated by filtration and washed with cold brine followed by a solution of petroleum ether/diethyl ether (2/1 by volume). This solid was slowly added to an ice cooled mixture of 50% sodium hydroxide solution/ethyl acetate. The mixture was extracted with ethyl acetate and the organic phase dried over magnesium sulfate. After filtration, the solution was concentrated to 400 mL total volume, diluted with diethyl ether (1.5 L) and treated with dry HCl. The product, 2,4-dibromophenyl-hydrazine hydrochloride (45.9 g) was isolated as a white solid and used without further purification.

reactant | 2,4-dibromoaniline | 0.2 mol, 50.0 g | BrC1=C(N)C=CC(=C1)Br | C6H5Br2N
reactant | sodium nitrite | 0.2 mol, 13.8 g | N(=O)[O-].[Na+]
reactant | tin chloride monohydrate | 0.6 mol, 135.4 g | O.[Sn](Cl)(Cl)(Cl)Cl
solvent | HCl | 110 mL | Cl | ClH
solvent | water | 110 mL | O | H2O
product | 2,4-dibromophenyl-hydrazine hydrochloride | 45.9 g | Cl.BrC1=C(C=CC(=C1)Br)NN | InChI=1S/C6H6Br2N2.ClH/c7-4-1-2-6(10-9)5(8)3-4;/h1-3,10H,9H2;1H
